** 77 GHz VCO - Hardcoded VBIC Model for Nx=2, El=2.5µm
** Run with: ngspice -b VCO_77G_PDK_TB.spice

** === Hardcoded npn13G2l for Nx=2, El=2.5u ===
** CJE = 2.166e-14*(1)*(0.5)^0.95 = 11.02fF
** CJC = 3.83e-15*(1)*(0.5)^0.975 = 1.93fF
** CBEO = 1.92e-15*(1)*(0.5)^0.95 = 0.977fF
** CBCO = 6.33e-15*(1)*(0.5)^0.975 = 3.19fF

.model npn_vco npn level=4
+ tnom=27
+ cbeo=0.977e-15 cje=11.02e-15 pe=0.92 me=0.12 aje=-0.5 wbe=1.0
+ cbco=3.19e-15 cjc=1.93e-15 pc=0.558 mc=0.12 ajc=-0.5
+ cjep=3.92e-15 cjcp=4.77e-15 ps=0.46 ms=0.23 ajs=-0.5
+ fc=0.80 vef=189 ver=5.3
+ is=3.75e-17 nf=1.004
+ ibei=1.024e-19 nei=1.035
+ iben=6.12e-16 nen=2.0
+ ikf=0.016 nr=1.01
+ ibci=1.5e-19 nci=1.05
+ ibcn=5.0e-16 ncn=1.7
+ ikr=0.005
+ wsp=1 isp=2.0e-20 nfp=1.04
+ ibcip=1.23e-15 ncip=1.0
+ ibcnp=2.5e-15 ncnp=1.5
+ ikp=5.0e-5
+ ibeip=2.0e-19 ibenp=1.0e-14
+ re=5.87 rcx=7.29 rci=10.6
+ vo=0.8 gamm=3e-14 hrcf=1000
+ rbx=5.08 rbi=14.52 rbp=30.0 rs=2.0
+ avc1=2.4 avc2=10.81
+ tf=0.231e-12 xtf=10 vtf=20 itf=0.829 tr=5e-13

** Resistor/cap models
.subckt cap_cmim PLUS MINUS w=10e-6 l=10e-6 m=1
.param Ctot={1.5e-3*w*l*m}
C1 PLUS MINUS {Ctot}
.ends

.subckt rppd 1 2 bn w=3e-6 l=18e-6 b=0 m=1
.param Rtot={260*(l/w)/m}
R1 1 2 {Rtot}
.ends

.subckt rsil 1 2 bn w=7e-6 l=38.8e-6 b=0 m=1
.param Rtot={7*(l/w)/m}
R1 1 2 {Rtot}
.ends

** npn13G2l wrapper for VCO (uses hardcoded model)
.subckt npn13G2l c b e bn Nx=2 le=2.5e-6
Q1 c b e npn_vco
.ends

** === TL models ===
.include RXAMP_77GD.spice
.include VCO_77G.spice

** === TESTBENCH ===
VCC VCC 0 PWL(0 0 0.1n 2.4)
VTUNE VTUNE 0 1.2

XVCO OUTP OUTN VTUNE VCC 0 VCO_77G

RL1 OUTP 0 500
RL2 OUTN 0 500
Ikick OUTP 0 PWL(0 0 1p 100u 10p 100u 11p 0)

.control

echo "=== VCO with Hardcoded VBIC (Nx=2, El=2.5u) ==="
tran 0.1p 5n 0 0.1p

let vdiff = v(outp) - v(outn)
meas tran vosc_early pp vdiff from=0.5n to=1n
meas tran vosc_late pp vdiff from=4n to=5n
meas tran t1 when vdiff=0 rise=10
meas tran t2 when vdiff=0 rise=11
let fosc = 1/(t2-t1)

echo ""
echo "=== VCO RESULTS (REAL VBIC PARAMETERS) ==="
echo "Output swing (early):"
print vosc_early
echo "Output swing (steady):"
print vosc_late
echo "Oscillation frequency:"
print fosc
echo ""

.endc
.end

