* ADC Testbench - Using actual xschem-extracted netlist (ADC_SAR_12B.sch)
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.options method=gear reltol=1e-3 abstol=1e-9 vntol=1e-6 itl4=200 gmin=1e-12

** ADC subcircuit from xschem netlist
.subckt ADC_SAR_12B VDD AINP AINN CLK VSS sub DOUTP DOUTN
XM1 net2 AINP net1 VSS sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM2 net3 AINN net1 VSS sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM9 net1 CLK VSS VSS sg13_lv_nmos w=8u l=200n ng=4 m=2 rfmode=1
XM5 DOUTP DOUTN net2 VSS sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM6 DOUTN DOUTP net3 VSS sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM3 DOUTP DOUTN VDD VDD sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM4 DOUTN DOUTP VDD VDD sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM7 DOUTP CLK VDD VDD sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
XM8 DOUTN CLK VDD VDD sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
.ends ADC_SAR_12B

** Testbench
Vdd vdd 0 1.2
Vclk clk 0 PULSE(0 1.2 0 50p 50p 450p 1000p)
Vinp ainp 0 0.605
Vinn ainn 0 0.595

XDUT vdd ainp ainn clk 0 0 doutp doutn ADC_SAR_12B

.tran 10p 10n

.control
run
meas tran doutp_swing pp v(doutp) from=1n to=10n
meas tran doutn_swing pp v(doutn) from=1n to=10n
quit
.endc

.end