* StrongARM Comparator Testbench - IHP SG13G2 PDK Models
* VDD=1.2V, 1GHz clock, 10mV differential input

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.subckt ADC_SAR_12B ainp ainn clk doutp doutn vdd vss
XM1 dn1 ainp tail vss sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM2 dn2 ainn tail vss sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM9 tail clk vss vss sg13_lv_nmos w=8u l=200n ng=4 m=2 rfmode=1
XM5 doutp doutn dn1 vss sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM6 doutn doutp dn2 vss sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM3 doutp doutn vdd vdd sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM4 doutn doutp vdd vdd sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM7 doutp clk vdd vdd sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
XM8 doutn clk vdd vdd sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
.ends ADC_SAR_12B

* Supply
Vdd vdd 0 1.2
Vss vss 0 0

* Clock: 1GHz, 50% duty
Vclk clk 0 PULSE(0 1.2 0 50p 50p 450p 1000p)

* Input: VCM=0.6V, differential=10mV
Vinp ainp 0 0.605
Vinn ainn 0 0.595

* DUT
XDUT ainp ainn clk doutp doutn vdd vss ADC_SAR_12B

* Analysis
.tran 1p 5n

* Measurements: ainp>ainn so doutp should go LOW, doutn stays HIGH
.meas tran clk_to_outp TRIG v(clk) val=0.6 rise=1 TARG v(doutp) val=0.6 fall=1
.meas tran clk_to_outn TRIG v(clk) val=0.6 rise=1 TARG v(doutn) val=1.1 rise=1
.meas tran doutp_min MIN v(doutp) from=100p to=600p
.meas tran doutn_max MAX v(doutn) from=100p to=600p

.control
run
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/adc_results.txt v(doutp) v(doutn) v(clk)
meas tran clk_to_outp trig v(clk) val=0.6 rise=1 targ v(doutp) val=0.6 fall=1
meas tran doutp_final find v(doutp) at=450p
meas tran doutn_final find v(doutn) at=450p
meas tran doutp_min min v(doutp) from=100p to=600p
meas tran doutn_min min v(doutn) from=100p to=600p
quit
.endc

.end