* IFA Testbench - Using actual xschem-extracted netlist
* Verifies IFA_77G.sch matches expected behavior

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ

.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl4=500 gmin=1e-11 trtol=7

** IFA subcircuit from xschem netlist (IFA_77G.sch)
.subckt IFA_77G VCC INP INN GND sub OUTP OUTN
XQ1 out1p INP tail1 sub npn13G2l Nx=2 selft=0
XQ2 out1n INN tail1 sub npn13G2l Nx=2 selft=0
XQ3 OUTP out1p tail2 sub npn13G2l Nx=2 selft=0
XQ4 OUTN out1n tail2 sub npn13G2l Nx=2 selft=0
RL1 VCC out1p 500
RL2 VCC out1n 500
RL3 VCC OUTP 500
RL4 VCC OUTN 500
ITAIL1 tail1 GND DC 2m
ITAIL2 tail2 GND DC 2m
.ends IFA_77G

** Testbench
Vcc vcc 0 3.3
Vinp inp 0 DC 1.3 SIN(1.3 1m 10Meg)
Vinn inn 0 DC 1.3 SIN(1.3 -1m 10Meg)

XDUT vcc inp inn 0 0 outp outn IFA_77G

.tran 100p 200n

.control
run
meas tran ifa_swing pp v(outp) from=20n to=200n
meas tran ifa_diff_swing pp v(outp,outn) from=20n to=200n
quit
.endc

.end