* IFA 77G Testbench - IHP SG13G2 PDK
* 2-stage diff pair IF amplifier, VCC=3.3V

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

.subckt IFA_77G INP INN OUTP OUTN VCC GND
XQ1 outp1 INP tail1 GND npn13G2l Nx=2
XQ2 outn1 INN tail1 GND npn13G2l Nx=2
XQ3 OUTP outp1 tail2 GND npn13G2l Nx=2
XQ4 OUTN outn1 tail2 GND npn13G2l Nx=2
RL1 VCC outp1 500
RL2 VCC outn1 500
RL3 VCC OUTP 500
RL4 VCC OUTN 500
ITAIL1 tail1 GND DC 2m
ITAIL2 tail2 GND DC 2m
.ends IFA_77G

Vcc vcc 0 3.3
Vinp inp 0 DC 1.1 AC 1m
Vinn inn 0 DC 1.1 AC -1m

XDUT inp inn outp outn vcc 0 IFA_77G

.ac dec 100 1Meg 1G

.control
run
print outp outn
meas ac gain_db max vdb(outp) from=1e6 to=100e6
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/ifa_ac.txt v(outp) v(outn)
quit
.endc

.end