* IFA + VGA cascaded transient test
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ

.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl4=500 gmin=1e-11 trtol=7

Vcc vcc 0 3.3
Vinp inp 0 DC 1.3 SIN(1.3 1m 10Meg)
Vinn inn 0 DC 1.3 SIN(1.3 -1m 10Meg)
Vctrl vctrl 0 1.2

* IFA Stage 1
XQ1 outp1 inp tail1 0 npn13G2l Nx=2 selft=0
XQ2 outn1 inn tail1 0 npn13G2l Nx=2 selft=0
RL1 vcc outp1 500
RL2 vcc outn1 500
Itail1 tail1 0 DC 2m

* AC couple to IFA Stage 2 (bias at 1.05V: 3.3*2.2/(4.7+2.2)=1.05V)
Cc1 outp1 b2p 1p
Cc2 outn1 b2n 1p
Rb1 vcc b2p 4.7k
Rb2 b2p 0 2.2k
Rb3 vcc b2n 4.7k
Rb4 b2n 0 2.2k

* IFA Stage 2
XQ3 outp2 b2p tail2 0 npn13G2l Nx=2 selft=0
XQ4 outn2 b2n tail2 0 npn13G2l Nx=2 selft=0
RL3 vcc outp2 500
RL4 vcc outn2 500
Itail2 tail2 0 DC 2m

* AC couple to VGA (bias at 1.3V)
Cc3 outp2 vga_inp 1p
Cc4 outn2 vga_inn 1p
Rb5 vcc vga_inp 10k
Rb6 vga_inp 0 6.5k
Rb7 vcc vga_inn 10k
Rb8 vga_inn 0 6.5k

* VGA
XQ5 vga_op vga_inp vtail 0 npn13G2l Nx=2 selft=0
XQ6 vga_on vga_inn vtail 0 npn13G2l Nx=2 selft=0
XQtail vtail vctrl etail 0 npn13G2l Nx=4 selft=0
RL5 vcc vga_op 500
RL6 vcc vga_on 500
RE etail 0 10

.tran 100p 200n

.control
run
meas tran ifa1_swing pp v(outp1) from=50n to=200n
meas tran ifa2_swing pp v(outp2) from=50n to=200n
meas tran vga_swing pp v(vga_op) from=50n to=200n
quit
.endc

.end